* Created by KLayout
*** My special header ***

* cell opamp_r2r_ABAMP_YoshinoMiyabi
* pin AB_N
* pin AB_P
* pin CAP_N
* pin CAP_P
* pin OUT
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_ABAMP_YoshinoMiyabi AB_N AB_P CAP_N CAP_P OUT VDD VSS
* device instance $1 r0 *1 6723.5,-2940.9 PMOS
XM$1 VDD AB_P OUT VDD PMOS L=5u W=720u AS=1111.2p AD=1111.2p PS=836.6u PD=836.6u
* device instance $31 r0 *1 6791.6,-3048.9 NMOS
XM$31 VSS AB_N OUT VSS NMOS L=5u W=360u AS=586.8p AD=586.8p PS=428.6u PD=428.6u
* device instance $41 r90 *1 6456.2,-3007 F_CSIO
XC$41 CAP_N OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.5999990463
+ Y=80.6000009537 m=2
* device instance $43 r90 *1 6456.2,-2877 F_CSIO
XC$43 CAP_P OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.5999990463
+ Y=80.6000009537 m=2
.ENDS opamp_r2r_ABAMP_YoshinoMiyabi
