* Created by KLayout
*** My special header ***

* cell opamp_r2r_diff_YoshinoMiyabi
* pin BNI
* pin BNO
* pin BPI
* pin BPO
* pin INM
* pin INM_N
* pin INM_P
* pin INP
* pin INP_N
* pin INP_P
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_diff_YoshinoMiyabi BNI BNO BPI BPO INM INM_N INM_P INP INP_N
+ INP_P VDD VSS
* device instance $1 m0 *1 92.6,-193.2 PMOS
XM$1 INM_P INM \$76 VDD PMOS L=5u W=60.8u AS=101.08p AD=101.08p PS=95u PD=95u
* device instance $9 r180 *1 23.3,-193.2 PMOS
XM$9 INP_P INP \$76 VDD PMOS L=5u W=60.8u AS=101.08p AD=101.08p PS=95u PD=95u
* device instance $17 m0 *1 92.6,-93.2 PMOS
XM$17 \$76 BPI \$111 VDD PMOS L=5u W=60.8u AS=101.08p AD=101.08p PS=95u PD=95u
* device instance $25 r180 *1 23.3,-93.2 PMOS
XM$25 \$76 BPI \$108 VDD PMOS L=5u W=60.8u AS=101.08p AD=101.08p PS=95u PD=95u
* device instance $33 m0 *1 92.6,6.8 PMOS
XM$33 VDD BPO \$111 VDD PMOS L=5u W=60.8u AS=101.08p AD=101.08p PS=95u PD=95u
* device instance $41 r180 *1 23.3,6.8 PMOS
XM$41 VDD BPO \$108 VDD PMOS L=5u W=60.8u AS=101.08p AD=101.08p PS=95u PD=95u
* device instance $49 r0 *1 16.2,-386.2 NMOS
XM$49 VSS BNO \$2 VSS NMOS L=5u W=30.4u AS=55.48p AD=55.48p PS=52.6u PD=52.6u
* device instance $53 r0 *1 16.2,-326.2 NMOS
XM$53 \$19 BNI \$2 VSS NMOS L=5u W=30.4u AS=55.48p AD=55.48p PS=52.6u PD=52.6u
* device instance $57 r0 *1 96.2,-386.2 NMOS
XM$57 VSS BNO \$3 VSS NMOS L=5u W=30.4u AS=55.48p AD=55.48p PS=52.6u PD=52.6u
* device instance $61 r0 *1 96.2,-326.2 NMOS
XM$61 \$19 BNI \$3 VSS NMOS L=5u W=30.4u AS=55.48p AD=55.48p PS=52.6u PD=52.6u
* device instance $65 r0 *1 96.2,-266.2 NMOS
XM$65 INM_N INM \$19 VSS NMOS L=5u W=30.4u AS=55.48p AD=55.48p PS=52.6u PD=52.6u
* device instance $69 r0 *1 -1.8,-266.2 NMOS
XM$69 INP_N INP \$19 VSS NMOS L=5u W=30.4u AS=55.48p AD=55.48p PS=52.6u PD=52.6u
.ENDS opamp_r2r_diff_YoshinoMiyabi
